US08183275B2
To a stirred solution of 3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propionamide (71.9 g, 202 mmol) in methylene chloride (1 L) was added Dess-Martin periodinane (100 g, 226 mmol). After 1.5 h, saturated sodium bicarbonate (500 mL) and saturated sodium thiosulfate (500 mL) were added and the mixture was stirred for another 10 minutes. The organic layer was separated and treated with another batch of saturated sodium bicarbonate (500 mL) and saturated sodium thiosulfate (500 mL). The organic layer was separated, dried over sodium sulfate, and concentrated to provide 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propionamide, which was used without further purification.

reactant | 3-(4-bromophenyl)-N-(2-hydroxy-4,4-dimethylhexyl)propionamide | 202 mmol, 71.9 g | BrC1=CC=C(C=C1)CCC(=O)NCC(CC(CC)(C)C)O | C17H26BrNO2
reactant | Dess-Martin periodinane | 226 mmol, 100 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | 500 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 3-(4-bromophenyl)-N-(4,4-dimethyl-2-oxohexyl)propionamide | BrC1=CC=C(C=C1)CCC(=O)NCC(CC(CC)(C)C)=O | C17H24BrNO2
